US05580986
6. 3-Amino-4-Cyano-1-methyl-5-methylmercaptopyrazole
9.63 g (56.6 mmol) [Bis(methylmercapto)methylene]malononitrile was suspended in 50 ml water and treated with 3.7 ml (67.9 mmol) methylhydrazine. The mixture was heated at boiling for 1 hour, the reaction solution cooled, the precipitate suction filtered and recrystallised from ethanol.

reactant | [Bis(methylmercapto)methylene]malononitrile | 56.6 mmol, 9.63 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | methylhydrazine | 67.9 mmol, 3.7 ml | CNN | CH6N2
solvent | water | 50 ml | O | H2O
product | 3-Amino-4-Cyano-1-methyl-5-methylmercaptopyrazole | NC1=NN(C(=C1C#N)SC)C | C6H8N4S
